US04086361
(9) 4'-chloro-6-cyanocaprophenone O-(2-aminoethyl) oxime hydrochloride.
5.0 mmol. (1.25 gr) of 4'-chloro-6-cyanocaprophenone oxime, melting point 58°-59° C, 5.2 mmol (0.60 gr) of 2-chloroethylaminehydrochloride and 0.7 gr of KOH powder were sequentially added to 12.5 ml of dimethyl-formamide (DMF) while stirring at 10° C.

reactant | 4'-chloro-6-cyanocaprophenone oxime | 1.25 gr | ClC1=CC=C(C=C1)C(CCCCCC#N)=NO | C13H15ClN2O
reactant | 2-chloroethylaminehydrochloride | 5.2 mmol, 0.60 gr | Cl.ClCCN
reactant | KOH | 0.7 gr | [OH-].[K+]
solvent | dimethyl-formamide | 12.5 ml | CN(C=O)C | C3H7NO
product | 4'-chloro-6-cyanocaprophenone O-(2-aminoethyl) oxime hydrochloride | Cl.NCCON=C(CCCCCC#N)C1=CC=C(C=C1)Cl | InChI=1S/C15H20ClN3O.ClH/c16-14-8-6-13(7-9-14)15(19-20-12-11-18)5-3-1-2-4-10-17;/h6-9H,1-5,11-12,18H2;1H
